US08252820B2
H. N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester
To a solution of 1.25 g (8.83 mmol) of chlorosulfonyl isocyanate in 15 mL of methylene chloride is added dropwise a solution of 650 mg (8.83 mmol) of t-butanol in 5 mL methylene chloride. The solution is stirred at room temperature for 45 min. then a solution of 2.30 g (6.25 mmol) of (2-benzyloxy-4-bromo-6-fluorophenylamino)-acetic acid methyl ester and 1.25 g (12.4 mmol) of triethylamine in 10 mL methylene chloride is added dropwise. The mixture is stirred at room temperature for 3 h then is washed with water. The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure. The residual oil is purified by flash chromatography using 15% ethyl acetate/methylene chloride to elute the product as an oil: 1H NMR (CDCl3): δ 7.46-7.33 (m, 6H), 6.98 (d, J=9.1 Hz, 1H), 6.95 (s, 1H), 5.15 (s, 2H), 4.68 (d, J=18 Hz, 1H), 4.41 (d, J=18 Hz, 1H), 3.64 (s, 3H), 1.45 (s, 9H); MS (M−H)−=547.

reactant | chlorosulfonyl isocyanate | 8.83 mmol, 1.25 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 8.83 mmol, 650 mg | C(C)(C)(C)O | C4H10O
reactant | (2-benzyloxy-4-bromo-6-fluorophenylamino)-acetic acid methyl ester | 6.25 mmol, 2.30 g | COC(CNC1=C(C=C(C=C1F)Br)OCC1=CC=CC=C1)=O | C16H15BrFNO3
reactant | triethylamine | 12.4 mmol, 1.25 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1F)Br)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C21H24BrFN2O7S
